US05342846
5-Amino-1-(2,4-difluorophenyl)-6,8-difluoro-7-[3-(1,2,3-triazol-1-yl]pyrrolidin-1-yl]-1,4-dihydro-4-oxo-quinoline -3-carboxylic acid
A mixture of 5-amino-1-(2,4-difluorophenyl) -6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (200 mg, 0.54 mmol), 3-(1,2,3-triazol-1-yl)pyrrolidine hydrochloride (231 mg, 1.25 mmol) and diazabicycloundecane (200 mg, 1.31 mmol) in acetonitrile (25 ml) was refluxed for 45 h. The separated solid was filtered, washed with acetonitrile and ether to give 150 mg (57%) of desired product, m.p. 307.5°-309° C. 1H NMR (TFA) δ: 2.81 (m, 2H), 4.06-4.53 (m, 4H), 5.73 (m, 1H), 7.15-7.23 (m, 2H), 7.59-7.66 (m, 1H), 8.52 (d, 1H), 8.62 (d, 1H), 8.82 (d, 1H).

reactant | 5-amino-1-(2,4-difluorophenyl) -6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 0.54 mmol, 200 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1=C(C=C(C=C1)F)F)C(=O)O)=O | C16H7F5N2O3
reactant | 3-(1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 1.25 mmol, 231 mg | Cl.N1(N=NC=C1)C1CNCC1
reactant | diazabicycloundecane | 1.31 mmol, 200 mg | N1(NCCCCCCCCC1)C1CCCCCCCCCC1 | C20H40N2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 5-Amino-1-(2,4-difluorophenyl)-6,8-difluoro-7-[3-(1,2,3-triazol-1-yl]pyrrolidin-1-yl]-1,4-dihydro-4-oxo-quinoline -3-carboxylic acid | 150 mg, 57% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)N1N=NC=C1)F)C1=C(C=C(C=C1)F)F)C(=O)O)=O | C22H16F4N6O3
